### PR TITLE
Borel-Caratheodory

### PR DESCRIPTION
**Pull request by maksym-radziwill**
Changes: 
- The proof of Borel-Caratheodory is in the file StrongPNT/BorelCaratheodory.lean
- Added the import to StrongPNT.lean

Comments:
- I propose to put one file per theorem to keep the files short. 
- I tried my best to keep track of the mathlib4 conventions.
- Should we try to merge this with mathlib4 as we go along?

### CODE REVIEW

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean [hunk 1]
```diff
@@ -0,0 +1,266 @@
...
+import Mathlib.Analysis.Normed.Group.Basic
+import Mathlib.Analysis.Complex.AbsMax
+
+noncomputable abbrev divRemovable_zero (f : ℂ → ℂ) : ℂ → ℂ :=
+  Function.update (fun z ↦ (f z) / z) 0 ((deriv f) 0)
+
+-- Away from zero divRemovable_zero f z is equal to f z / z
+
+lemma divRemovable_zero_of_ne_zero (f : ℂ → ℂ) (z : ℂ) : 
+  z ≠ 0 → divRemovable_zero f z = f z / z := by
```
Comment (ajirving) [inline PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: Maybe move the hypothesis on z before the : rather than having an implication.  That's more Mathlib compliant and would also allow you to make z an implicit variable.

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean [hunk 2]
```diff
@@ -0,0 +1,266 @@
...
+  intro hyp_z; unfold divRemovable_zero; apply Function.update_of_ne hyp_z
+
+-- If f is analytic on an open set and f 0 = 0 then f z / z is also
+-- analytic on the same open set.
+
+lemma AnalyticOn.divRemovable_zero (f : ℂ → ℂ) (s : Set ℂ)
```
Comment (ajirving) [inline PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: f and S could be implicit here:
```suggestion
lemma AnalyticOn.divRemovable_zero {f : ℂ → ℂ} {s : Set ℂ}
```

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean [hunk 3]
```diff
@@ -0,0 +1,266 @@
...
+            ((Complex.analyticOn_iff_differentiableOn o).mp analytic) sInNhds0)
+       have T : (fun (x : ℂ) ↦ (f x - 0) / (x - 0)) = (fun (x : ℂ) ↦ (f x) / x) := by funext; grind
+       rw [zero, T] at U; exact U
+
+-- The proof of the Lemma below is cumbersome, a proper way would be to
+-- show that if f is analytic on a closed set C, then it is analytic on an
+-- open set O containing the closed set C and apply the previous lemma.
+
+lemma AnalyticOn_divRemovable_zero_closedBall (f : ℂ → ℂ) (s : Set ℂ)
+  {R : ℝ} {Rpos : 0 < R} {setIsBall : s = Metric.closedBall 0 R}
```
Comment (ajirving) [inline PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: Rpos shouldn't be implicit here:
```suggestion
  {R : ℝ} (Rpos : 0 < R) {setIsBall : s = Metric.closedBall 0 R}
```
Also I'm not sure I like introducing an arbitrary set S and then saying its the closed ball.  You could just write closed Ball everywhere or maybe use a let?

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean [hunk 4]
```diff
@@ -0,0 +1,257 @@
...
+        · have Z : ∀w ∈ Metric.closedBall 0 R ∩ Metric.ball x (R / 2), divRemovable_zero f w = f w / w := by
+             intro x₂ hyp_x₂
+             apply divRemovable_zero_of_ne_zero
+             simp [ball_eq] at hyp_x₂
+             rw [← norm_pos_iff]
+             calc ‖x₂‖
+               _ = ‖x - (x - x₂)‖ := by simp
+               _ ≥ ‖x‖ - ‖x - x₂‖ := by apply norm_sub_norm_le
+               _ = R - ‖x₂ - x‖ := by simp [h, norm_sub_rev]
+               _ > 0 := by linarith
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: it's funny to see `>` since Mathlib prefers to systematically use `<`. I guess it doesn't matter in this case? You might consider just reversing the chain of arguments?...

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean [hunk 5]
```diff
@@ -0,0 +1,257 @@
...
+          apply AnalyticOn.congr 
+          · apply AnalyticOn.div (AnalyticOn.mono analytic Set.inter_subset_left) analyticOn_id 
+            · intro x₁ hyp_x₁
+              simp [ball_eq] at hyp_x₁
+              rw [← norm_pos_iff]
+              calc ‖x₁‖
+                   _ = ‖x - (-(x₁ - x))‖ := by simp
+                   _ ≥ ‖x‖ - ‖-(x₁ - x)‖ := by apply norm_sub_norm_le
+                   _ = R - ‖x₁ - x‖ := by simp [h, norm_sub_rev]
+                   _ > 0 := by linarith
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: same. By the way, does `positivity` prove this? (And the one before)

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean [hunk 6]
```diff
@@ -0,0 +1,257 @@
...
+            apply Set.inter_eq_self_of_subset_right
+            simp at x_hyp
+            exact Metric.ball_subset_closedBall
+          · rw [si]
+            apply AnalyticOn.divRemovable_zero 
+            · apply Metric.ball_mem_nhds; positivity
+            · exact zero
+            · apply Metric.isOpen_ball
+            · apply AnalyticOn.mono (t := Metric.closedBall 0 R) (s := Metric.ball 0 R) analytic
+              · apply Metric.ball_subset_closedBall
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: is this indented for a reason?

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean [hunk 7]
```diff
@@ -0,0 +1,257 @@
...
+
+-- If Re x ≤ M then |x| ≤ |2 * M - x|, this simple inequality is used
+-- in the proof of borelCaratheodory_closedBall.
+
+lemma Complex.norm_le_norm_two_mul_sub_of_re_le {M : ℝ} {x : ℂ} 
+  (Mpos : 0 < M) (hyp_re_x : x.re ≤ M) : ‖x‖ ≤ ‖2 * M - x‖ := by
+  have Z : M ^ 2 = M * M := by grind
+  rw [← sq_le_sq₀ (by positivity) (by positivity)]
+  repeat rw [Complex.sq_norm, Complex.normSq_apply]
+  simp
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: Non-terminal `simp` -- please use `simp?` and then click on the output, to change it to `simp only [...]`. Same throughout

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean [hunk 8]
```diff
@@ -0,0 +1,257 @@
...
+  ring_nf
+  simp [add_comm (-(x.re * M * 4)) (x.re ^ 2), add_assoc,
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: Non-terminal `simp`

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean [hunk 9]
```diff
@@ -0,0 +1,257 @@
...
+    $$\sup_{\abs{z}\leq r}\abs{f(z)}\leq\frac{2Mr}{R-r}.$$
+\end{theorem}
+%%-/
+
+theorem borelCaratheodory_closedBall {M R r : ℝ} {z : ℂ} {f : ℂ → ℂ} 
+  (Rpos : 0 < R) (analytic : AnalyticOn ℂ f (Metric.closedBall 0 R))
+  (zeroAtZero: f 0 = 0) (Mpos : 0 < M)
+  (realPartBounded: ∀z ∈ Metric.closedBall 0 R, (f z).re ≤ M) 
+  (hyp_r : r < R) (hyp_z : z ∈ Metric.closedBall 0 r)
+  : ‖f z‖ ≤ (2 * M * r) / (R - r) := by
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: Mathlib style is to have this indented four spaces (two tabs), and then the proof is indented two spaces...

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean [hunk 10]
```diff
@@ -0,0 +1,257 @@
...
+    intro z zInS
+    exact Complex.ne_zero_of_re_pos (by simp; linarith [realPartBounded z zInS])
+
+  have schwartzQuotientBounded : ∀z ∈ Metric.sphere 0 R, ‖schwartzQuotient f M z‖ ≤ 1 / R := by
+    intro z hyp_z
+    have zNe0 : z ≠ 0 := by
+      rw [mem_sphere_zero_iff_norm] at hyp_z
+      exact ne_zero_of_norm_ne_zero (by grind)
+    have zInS : z ∈ Metric.closedBall 0 R := zInSFunc R (by rfl) z hyp_z
+    simp [mem_sphere_iff_norm] at hyp_z
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: Non-terminal `simp`

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean [hunk 11]
```diff
@@ -0,0 +1,257 @@
...
+        · simp [h]
+        · exact div_le_div_of_nonneg_left (by positivity) (by positivity)
+              (Complex.norm_le_norm_two_mul_sub_of_re_le Mpos (realPartBounded z zInS))
+      _ ≤ (1 / ‖z‖) := by
+        by_cases h : ‖f z‖ = 0
+        · simp [h]
+        · rw [div_div, mul_comm, ← div_div, div_self]; exact h
+      _ = 1 / R := by rw [hyp_z]
+
+  have maxMod: ∀z ∈ Metric.closedBall 0 R, ‖schwartzQuotient f M z‖ ≤ 1 / R := by
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]:
```suggestion
  have maxMod : ∀ z ∈ Metric.closedBall 0 R, ‖schwartzQuotient f M z‖ ≤ 1 / R := by
```
Mathlib spacing conventions...

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean [hunk 12]
```diff
@@ -0,0 +1,257 @@
...
+    exact AnalyticOn.norm_le_of_norm_le_on_sphere 
+          (AnalyticOn.schwartzQuotient M Rpos
+             analytic fPosAll zeroAtZero)
+          (by rfl) schwartzQuotientBounded
+
+  have boundForF : ∀r < R, 0 < r → ∀z ∈ Metric.sphere 0 r, ‖f z‖ ≤ 2 * M * r / (R - r) := by
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]:
```suggestion
  have boundForF : ∀ r < R, 0 < r → ∀ z ∈ Metric.sphere 0 r, ‖f z‖ ≤ 2 * M * r / (R - r) := by
```
Throughout: the convention is for `∀` to be followed by a space

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean [hunk 13]
```diff
@@ -0,0 +1,257 @@
...
+    intro r hyp_r r_pos z zOnR
+    have zInS : z ∈ Metric.closedBall 0 R := zInSFunc r (by grind) z (zOnR)
+    rw [mem_sphere_zero_iff_norm] at zOnR
+    have := maxMod z zInS
+    unfold schwartzQuotient at this
+    have U : z ≠ 0 := by rw [← norm_pos_iff]; linarith
+    rw [divRemovable_zero_of_ne_zero f U] at this
+    simp at this
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: nonterminal `simp`

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean [hunk 14]
```diff
@@ -0,0 +1,257 @@
...
+    have U : 0 < r * ‖2 * M - f z‖ := by simp [r_pos, fPosAll z zInS]
+    simp [zOnR, div_div, div_le_iff₀' U ] at this
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: nonterminal `simp`

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean (hunk 4 above)
Comment (maksym-radziwill) [reply PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: I swapped this proof to ```<```

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean (hunk 5 above)
Comment (maksym-radziwill) [reply PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: Unfortunately it doesn't (it can only prove ```\leq``` which is trivial)

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean (hunk 6 above)
Comment (maksym-radziwill) [reply PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: I removed the ```(t := ...)``` and ```(s := ...)```

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean (hunk 8 above)
Comment (maksym-radziwill) [reply PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: I replaced all simps by simp only and when possible by rw

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean (hunk 9 above)
Comment (maksym-radziwill) [reply PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: I indented statements by four spaces, proofs by two

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean (hunk 10 above)
Comment (maksym-radziwill) [reply PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: All simps -> simp only and when possible to rw

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean (hunk 11 above)
Comment (maksym-radziwill) [reply PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: Done

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean (hunk 12 above)
Comment (maksym-radziwill) [reply PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: Done

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean (hunk 14 above)
Comment (maksym-radziwill) [reply PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: Ditto

File: PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean (hunk 13 above)
Comment (maksym-radziwill) [reply PrimeNumberTheoremAnd/StrongPNT/BorelCaratheodory.lean]: done
